US07151105B2
Step 2: 2-Benzyloxy-1-ethyl-4-propoxy-benzene
Potassium carbonate (17.8 g, 0.13 mol) followed by benzyl bromide (5.12 mL, 42.9 mmol) were added to a solution of 2-ethyl-5-propoxy-phenol (7.74 g, 42.9 mmol) in DMF (60 mL). The mixture was stirred at 45° C. for 15 hours and then partitioned between H2O and EtOAc. The organic layer was washed with 1 N HCl, brine, dried over Na2SO4 and concentrated to a brown oil. Purification by flash column chromatography (0% to 20% EtOAc in hexanes) gave the product as a clear oil (6.1 g, 55%). 1H NMR (400 MHz, CDCl3): δ 1.02 (t, J=7.6 Hz, 3 H), 1.19 (t, J=7.6 Hz, 3 H), 1.78 (q, J=7.6 Hz, 2 H), 2.63 (q, J=7.6 Hz, 2 H), 3.88 (t, J=6.6 Hz, 2 H), 5.05 (s, 2 H), 6.44 (dd, J8.1, 2.3 Hz, 1 H), 6.51 (dd, J=2.3 Hz, 1 H), 7.05 (d, J=8.3 Hz, 1 H), 7.31 (m, 1 H), 7.38 (m, 2 H), 7.44 (m, 2 H).

reactant | Potassium carbonate | 0.13 mol, 17.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 42.9 mmol, 5.12 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-ethyl-5-propoxy-phenol | 42.9 mmol, 7.74 g | C(C)C1=C(C=C(C=C1)OCCC)O | C11H16O2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-1-ethyl-4-propoxy-benzene | 6.1 g, 55% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCCC)CC | C18H22O2
